US09303028B2
In a 500 mL round bottom flask, the stirred solution of 2-amino-4-chlorobenzoic acid (42.8 g, 250.29 mmol, Aldrich) was dissolved anhydrous THF (200 mL) and the solution was cooled in an ice-bath. Lithium aluminum hydride (11.76 g, 312.86 mmol) was added portionwise to the above solution at the ice-bath temperature under nitrogen atmosphere. The resulting mixture was stirred at rt for 8 h. On completion of reaction the reaction mixture was cooled to ice-bath temperature and quenched by sequential addition of cold water (12 mL), 15% NaOH (12 mL) and water (36 mL). The resulting slurry was stirred at rt for 30 min and filtered through a CELITE™ pad. The solid residue was washed with ethyl acetate (1000 mL) and combined filtrate was concentrated under reduced pressure to give (2-amino 4-chlorophenyl)methanol as an off white solid. Yield: 32 g (81.6%). LCMS (ESI, m/z): 181 (M+23)+

reactant | 2-amino-4-chlorobenzoic acid | 250.29 mmol, 42.8 g | NC1=C(C(=O)O)C=CC(=C1)Cl | C7H6ClNO2
reactant | Lithium aluminum hydride | 312.86 mmol, 11.76 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (2-amino 4-chlorophenyl)methanol | NC1=C(C=CC(=C1)Cl)CO | C7H8ClNO
